US09370522B2
A solution of 1,2-bis(4-methoxyphenyl)ethane-1,2-dione (270 mg, 1.00 mmol, 1.00 equiv) and 2,3-diaminobenzoic acid (152 mg, 1.00 mmol, 1.00 equiv) in acetic acid (10 mL) was heated under reflux for 3 h. The reaction was quenched by the addition of 20 mL of ice/water. The solids were collected by filtration and purified by re-crystallization from methanol, affording 100 mg (26%) of 2,3-bis(4-methoxyphenyl)quinoxaline-5-carboxylic acid as a yellow solid.

reactant | 1,2-bis(4-methoxyphenyl)ethane-1,2-dione | 1.00 mmol, 270 mg, 1.00 equiv | COC1=CC=C(C=C1)C(C(=O)C1=CC=C(C=C1)OC)=O | C16H14O4
reactant | 2,3-diaminobenzoic acid | 1.00 mmol, 152 mg, 1.00 equiv | NC1=C(C(=O)O)C=CC=C1N | C7H8N2O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2,3-bis(4-methoxyphenyl)quinoxaline-5-carboxylic acid | 100 mg, 26% | COC1=CC=C(C=C1)C1=NC=2C=CC=C(C2N=C1C1=CC=C(C=C1)OC)C(=O)O | C23H18N2O4
